US08053440B2
To a solution of 2-bromo-3-pyridinecarboxaldehyde (1.86 g, 10 mmol) and 4′-methoxy phenylacetylene (1.58 g, 12 mmol) in triethylamine (40 mL) were added dichlorobis(triphenylphosphine)palladium (II) (140 mg, 2 mol %) and copper (I) iodide (20 mg, 1 mol %). The reaction mixture was heated at 50° C. under nitrogen for 3 h, then cooled to room temperature. The ammonium salt was removed by filtration. The filtrate was concentrated under reduced pressure leaving 2-(4-methoxy phenylethynyl)pyridine-3-carboxaldehyde (2.35 g, 99%) as a yellow solid. 2-(4-methoxy phenylethynyl)pyridine-3-carboxaldehyde (2.28 g, 9.60 mmol) and tert-butylamine (3.83 g, 60 mmol) were stirred under nitrogen for 24 h at room temperature. The resulting mixture was extracted with ether and dried over anhydrous Na2SO4. Removal of solvent gave the expected imine (2.72 g, 97%), which was used in next step without further purification. To a solution of the above imine (2.7 g, 9.23 mmol) in anhydrous DMF (50 mL) was added copper (I) iodide (0.190 g, 0.1 mmol). The reaction mixture was heated at 100° C. for 4 h, then cooled to room temperature and diluted with ether (200 mL). The organic layer was washed with a saturated aqueous ammonium chloride solution (3×100 mL). The organic layer was dried over anhydrous Na2SO4. Removal of solvent gave the crude compound as a dark-colored solid. Purification by column chromatography (silica gel 230-400 mesh; 30% ethyl acetate in hexanes as eluent) afforded 7-(4-methoxy phenyl)[1,6]naphthridine (0.730 g, 33%) as a brown solid. To a solution of 7-(4-methoxy phenyl)[1,6]naphthridine (0.485 g, 2.05 mmol) in anhydrous N-methyl-2-pyrrolidinone (5 mL) was added thiophenol (0.25 g, 2.26 mmol) and potassium carbonate (0.028 g, 0.205 mmol). The reaction mixture was stirred at 190° C. for 1 h under nitrogen. The reaction mixture was cooled to room temperature. The compound was purified by column chromatography to give 4-(1,6-naphthyridin-7-yl)phenol (0.33 g, 71%) as a pale yellow solid. Selected data: MS (ES) m/z: 223.95, 222.95; MP 219-221° C.

reactant | 7-(4-methoxy phenyl)[1,6]naphthridine | 2.05 mmol, 0.485 g | COC1=CC=C(C=C1)C1=NC=C2C=CC=NC2=C1 | C15H12N2O
reactant | thiophenol | 2.26 mmol, 0.25 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 0.205 mmol, 0.028 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(1,6-naphthyridin-7-yl)phenol | 0.33 g, 71% | N1=CC=CC2=CN=C(C=C12)C1=CC=C(C=C1)O | C14H10N2O
